US07223764B2
1-[2-(5,6-Difluorobenzimidazol-2-ylthio)ethyl]piperazine tris(trifluoroacetic acid) salt (4.00 g, 6.25 mmol) and potassium carbonate (31.26 mmol) were dissolved in acetonitrile (100 mL) and water (30 mL). While the solution was stirred under cooling with ice, 2-bromo-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide (2.20 g, 5.22 mmol) was added thereto over 15 minutes. The temperature of the mixture was allowed to room temperature, and the mixture was stirred for 15 hours. Thereafter, the reaction mixture was diluted with water and then extracted with chloroform. The organic layer was washed with saturated brine and then dried over sodium sulfate anhydrate, followed by concentration under reduced pressure. The residue was purified through silica gel column chromatography (silica gel 150 g, hexane: acetone=4:1 to 2:1 to 1:1). The thus-obtained crystals were recrystallized from chloroform-hexane, to thereby yield 2-[4-[2-(5,6-difluorobenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide (3.04 g, yield 91%) as a pale yellow powder.

reactant | 1-[2-(5,6-Difluorobenzimidazol-2-ylthio)ethyl]piperazine tris(trifluoroacetic acid) salt | 6.25 mmol, 4.00 g | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.FC1=CC2=C(N=C(N2)SCCN2CCNCC2)C=C1F
reactant | potassium carbonate | 31.26 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide | 5.22 mmol, 2.20 g | BrCC(=O)NC=1C(=NC(=CC1OCC(F)(F)F)C)OCC(F)(F)F | C12H11BrF6N2O3
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 30 mL | O | H2O
product | 2-[4-[2-(5,6-difluorobenzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide | 3.04 g, yield 91% | FC1=CC2=C(N=C(N2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2OCC(F)(F)F)C)OCC(F)(F)F)C=C1F | C25H26F8N6O3S
